US04585768
490 mg of propionyl chloride are added under ice-cooling to a solution of 2.15 g of (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one in 20 ml of pyridine, and the mixture is stirred at room temperature for 3 hours. Then, the mixture is evaporated under reduced pressure. The residue is several times evaporated together with benzene, and ice-water is added to said residue. The aqueous mixture is extracted with ethyl acetate, and the extract is washed with water, 10% hydrochloric acid, water, an aqueous saturated sodium bicarbonate solution and water, successively. Said extract is dried and evaporated under reduced pressure to remove solvent. 2.19 g of (-)-cis-2-(4-methoxyphenyl)-3-propionyloxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained as caramel.

reactant | propionyl chloride | 490 mg | C(CC)(=O)Cl | C3H5ClO
reactant | (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 2.15 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)Cl | C27H27ClN2O5S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | (-)-cis-2-(4-methoxyphenyl)-3-propionyloxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 2.19 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(CC)=O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)Cl | C30H31ClN2O6S
